US05684031
2-(N-(7-tert-Butyl-2,3-dihydro-3,3-dimethylbenzo[b]thiophene-5-yl)amino)imidazoline
To a 0.33 g (1.3 mmol) solution of 5-amino-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]thiophene in 10 mL of acetonitrile at RT is added 0.2 g (1.3 mmol) of imidazoline-2-sulfonic acid, (Maryonoff et al., (J. Org. Chem., 1986, 51, 1882). The reaction is then refluxed overnight. On cooling to RT, pure guanidine precipitates out of solution and is filtered from the solution to give 155 mg (40%) of product.

reactant | 5-amino-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]thiophene | NC1=CC2=C(SCC2(C)C)C(=C1)C(C)(C)C | C14H21NS
reactant | imidazoline-2-sulfonic acid | 1.3 mmol, 0.2 g | N1C(=NCC1)S(=O)(=O)O | C3H6N2O3S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(N-(7-tert-Butyl-2,3-dihydro-3,3-dimethylbenzo[b]thiophene-5-yl)amino)imidazoline | 155 mg, 40% | C(C)(C)(C)C1=CC(=CC2=C1SCC2(C)C)NC=2NCCN2 | C17H25N3S
